US07244843B2
To a solution of 2-methyl-2-butanamine (11.4 mL, 97.8 mmol) in dichloromethane (100 mL) was added, dropwise over a 10 min period, a solution of 2-bromobenzenesulfonyl chloride (10.0 g, 39.1 mmol) in dichloromethane (ca. 50 mL). After stirring for 15 h the reaction was concentrated in vacuo. The residue was crystallized from methyl t-butyl ether to provide 10.5 g (87%) of 2-bromo-N-(1,1-dimethylpropyl)benzenesulfonamide in two crops: LCMS (neg. ion spectrum) m/z 304/306.

reactant | 2-methyl-2-butanamine | 97.8 mmol, 11.4 mL | CC(C)(CC)N | C5H13N
reactant | 2-bromobenzenesulfonyl chloride | 39.1 mmol, 10.0 g | BrC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4BrClO2S
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | ca. 50 mL | ClCCl | CH2Cl2
product | 2-bromo-N-(1,1-dimethylpropyl)benzenesulfonamide | 10.5 g, 87% | BrC1=C(C=CC=C1)S(=O)(=O)NC(CC)(C)C | C11H16BrNO2S
